US07888366B2
In a dry round bottom flask were added 2-fluoro-6-iodobenzonitrile (500 mg; 2.02 mmol), 3-thiophene boronic acid (311 mg; 2.43 mmol), sodium carbonate (2.32 g; 21.86 mmol), tetrakis(triphenylphosphine)palladium(0) (77 mg; 0.07 mmol), DME (20 mL) and water (20 mL) and heated to reflux for 5 hours. The reaction mixture was cooled to room temperature and extracted with ethyl acetate (3×), washed with brine (1×) and water (1×). Organic layers were combined and dried over sodium sulfate and then filtered and solvent removed to yield crude material which was purified by column chromatography (4% ethyl acetate/hexane) to obtain 150 milligrams of 2-fluoro-6-thiophen-3-yl-benzonitrile.

reactant | 2-fluoro-6-iodobenzonitrile | 2.02 mmol, 500 mg | FC1=C(C#N)C(=CC=C1)I | C7H3FIN
reactant | 3-thiophene boronic acid | 2.43 mmol, 311 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 21.86 mmol, 2.32 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | DME | 20 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.07 mmol, 77 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 20 mL | O | H2O
product | 2-fluoro-6-thiophen-3-yl-benzonitrile | 150 milligrams | FC1=C(C#N)C(=CC=C1)C1=CSC=C1 | C11H6FNS
